US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole (1.0 gram, 4.2 mmol) and CDI (1.36 gram 8.4 mmol) in DMF was stirred at room temperature for 2 h and filtered. The precipitate was washed with DMF and dried in a high vacuum oven to give 1.25 gram (89%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one as an orange solid. 1HNMR (400 MHz, DMSO-d6) δ 12.23 (s, 1H, NH-1′), 8.45 (s, 1H), 7.94 (m, 1H), 7.79 (m, 1H), 7.73 (s, 1H, H-vinyl), 7.46 (m, 1H), 7.25 (m, 2H), 7.13 (m, 1H), 6.14 (d, J=1.95 Hz, 1H, H-4′), 2.36 (s, 3H, CH3), and 2.32 (s, 3H, CH3). MS m/z (relative intensity, %) 332 (100, M+.)

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole | 4.2 mmol, 1.0 gram | CC1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC=C12)=O | C15H14N2O
reactant | CDI | 8.4 mmol, 1.36 gram | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one | 1.25 gram, 89% | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
